US09376422B2
5-Fluoro-4-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile
To a stirred solution of 6-methyl-2-oxo-4-(propan-2-yl)-1,2-dihydropyridine-3-carbonitrile (225 mg, 1.277 mmol) in MeCN (6 mL) was added Selectfluor (620 mg, 1.75 mmol). The reaction mixture was stirred at 50° C. for 3 h. After cooling to 23° C., the reaction mixture was concentrated in vacuo. The residue was purified by column chromatography (50% to 100% EtOAc-heptane to obtain the titled compound (90 mg, 36%). 1H NMR (400 MHz, CDCl3) δ ppm 3.39 (m, 1H), 2.44 (d, J=3.1 Hz, 3H), 1.41 (dd, J=7.0, 3.1 Hz, 6H); LCMS E-S (M+H)=195.2.

reactant | 6-methyl-2-oxo-4-(propan-2-yl)-1,2-dihydropyridine-3-carbonitrile | 1.277 mmol, 225 mg | CC1=CC(=C(C(N1)=O)C#N)C(C)C | C10H12N2O
reactant | Selectfluor | 1.75 mmol, 620 mg | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | MeCN | 6 mL | CC#N | C2H3N
product | 5-Fluoro-4-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile | 90 mg, 36% | FC=1C(=C(C(NC1C)=O)C#N)C(C)C | C10H11FN2O
